US04234694
7 g of the addition compound described in Example 22, 1 g of a polysiloxane-polyalkylene glycol of Example 32 (foam stabilizer) and 200 g of a mixture of 70% by weight of crude diphenylmethane diisocyanate which had been prepared by aniline formaldehyde condensation followed by phosgenation, and 30% by weight of the distillation residue obtained from the preparation of tolylene diisocyanate were vigorously stirred together as described in Example 36. The isocyanate mixture has an isocyanate content of 29.1% and a viscosity of 1030 cP/25° C. This mixture was then heated to 150° C. for 30 minutes.

reactant | diphenylmethane diisocyanate | [N-]=C=O.[N-]=C=O.C1(=CC=CC=C1)CC1=CC=CC=C1
reactant | aniline formaldehyde | N(C1=CC=CC=C1)C=O | C7H7NO
product | tolylene diisocyanate | CC=1C(=CC(=CC1)N=C=O)N=C=O | C9H6N2O2
